US07572820B2
A. 3-Chloro-4-(trifluoromethyl)-1H-indole-5-carbonitrile
To an ice-cold solution of 4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.015 g, 0.071 mmol) in DMF (2 mL), under N2, was added a solution of NCS (0.011 g, 0.079 mmol) in DMF (0.5 mL). The mixture was stirred at rt for 1 h and then heated at 75° C. for 40 min. Upon cooling, the mixture was partitioned between Et2O and 0.1N HCl. The organic phase was washed with water and sat'd brine, dried (Na2SO4), and concentrated in vacuo. The residue was purified by radial chromatography (50-100% CH2Cl2 hexanes gradient, followed by 1-5% MeOH—CH2Cl2 gradient) to afford the title compound (0.014 g, 82% yield): MS (ES) m/z 245 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.071 mmol, 0.015 g | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | NCS | 0.079 mmol, 0.011 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.014 g, 82% yield | ClC1=CNC2=CC=C(C(=C12)C(F)(F)F)C#N | C10H4ClF3N2
